US08106070B2
Palladium tetrakis(triphenylphosphine) (42 mg, 0.04 mmol) was added to a degassed, ambient temperature solution of 4-(2,2-dimethylpropyl)-2-{2-[2-fluoro-4-(trimethylstannyl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (200 mg, 0.37 mmol) and 2-bromo-5-fluoropyridine (129 mg, 0.74 mmol) in 1,4-dioxane (5 mL). After stirring at reflux overnight, the reaction mixture was diluted with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-40% ethyl acetate/hexane afforded 4-(2,2-dimethylpropyl)-2-{[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | 4-(2,2-dimethylpropyl)-2-{2-[2-fluoro-4-(trimethylstannyl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.37 mmol, 200 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=C(C=C(C=C1)[Sn](C)(C)C)F)(C)O)(C)C
reactant | 2-bromo-5-fluoropyridine | 0.74 mmol, 129 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Palladium tetrakis(triphenylphosphine) | 0.04 mmol, 42 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 4-(2,2-dimethylpropyl)-2-{[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=C(C=C(C=C1)C1=NC=C(C=C1)F)F)=O)(C)C | C23H26F2N4O3S
